US08629150B2
To a solution of tert-butyl (3-(6-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)nicotinamido)-2,2-dimethylpropyl)carbamate (10 mg) in DCM (3 mL) was added TFA (0.3 ml). The mixture was stirred at room temperature for 3 hours. All the solvents were removed under vacuum to give N-(3-amino-2,2-dimethylpropyl)-6-(6-(4-(3-bromopropoxy)benzylamino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-ylamino)nicotinamide (8 mg).

reactant | tert-butyl (3-(6-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)nicotinamido)-2,2-dimethylpropyl)carbamate | 10 mg | BrCCCOC1=CC=C(CNC2=CC(=NC(=N2)OCC(F)(F)F)NC2=NC=C(C(=O)NCC(CNC(OC(C)(C)C)=O)(C)C)C=C2)C=C1 | C32H41BrF3N7O5
reactant | TFA | 0.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3-amino-2,2-dimethylpropyl)-6-(6-(4-(3-bromopropoxy)benzylamino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-ylamino)nicotinamide | 8 mg | NCC(CNC(C1=CN=C(C=C1)NC1=NC(=NC(=C1)NCC1=CC=C(C=C1)OCCCBr)OCC(F)(F)F)=O)(C)C | C27H33BrF3N7O3
